US08304557B2
6-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine
In the same manner as in Example 17-1 and using 5-(3-nitrophenoxy)pyridin-2-amine (3.10 g, 13.4 mmol), ethyl isothiocyanatoformate (2.29 g, 17.4 mmol), hydroxylammonium chloride (4.00 g, 57.6 mmol), N,N-diisopropylethylamine (7.20 mL, 41.3 mmol), DMSO (20 mL), ethanol (25 mL) and methanol (25 mL) as starting materials, the title compound (3.50 g, 96%) was obtained as a white solid.

reactant | 5-(3-nitrophenoxy)pyridin-2-amine | 13.4 mmol, 3.10 g | [N+](=O)([O-])C=1C=C(OC=2C=CC(=NC2)N)C=CC1 | C11H9N3O3
reactant | ethyl isothiocyanatoformate | 17.4 mmol, 2.29 g | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | hydroxylammonium chloride | 57.6 mmol, 4.00 g | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 41.3 mmol, 7.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 25 mL | CO | CH4O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 6-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine | 3.50 g, 96% | [N+](=O)([O-])C=1C=C(OC=2C=CC=3N(C2)N=C(N3)N)C=CC1 | C12H9N5O3
